US05767131
1-(4-Aminobutyl)-4,4-diphenylpiperidine.
To a stirred solution of 4-(4,4-diphenylpiperidin-1-yl)butyronitrile (4.65 g, 15.3 mmol, 1.0 equiv) in anhydrous THF (20 mL) under argon was added a solution of BH3 in THF (1.0M, 54 mL, 54 mmol, 3.5 equiv) at room temperature. The mixture was refluxed for 4.5 hours and then cooled to room temperature and concentrated to a volume of about 40 mL. Aqueous HCl (6N, 55 mL) was added cautiously at 0° C. and stirring was continued for 2 hours at 55°-65° C. The mixture was cooled to 0° C., basified to pH 10 by addition of 6N aq. NaOH, and extracted with CH2Cl2 (3×100 mL). The combined organic solutions were dried over MgSO4 and concentrated. To a solution of the residue in CH2 Cl2 (50 mL) was added HCl in ether (1.0M, 30 mL, 2.0 equiv). After removal of the solvents, the residue was dissolved in CH2Cl2 (10 mL) and this solution was added dropwise into ether (150 mL) with swirling. The resulting solid was filtered and washed with ether (100 mL). This solid was taken up in water (30 mL), which was basified to pH 10 by addition of 1M aqueous NaOH, and extracted with CH2Cl2 (3×50 mL). The combined organic solutions were dried over MgSO4 and concentrated to give 4.51 g (95%) of light brown oil, which was characterized spectroscopically.

reactant | 4-(4,4-diphenylpiperidin-1-yl)butyronitrile | 15.3 mmol, 4.65 g, 1.0 equiv | C1(=CC=CC=C1)C1(CCN(CC1)CCCC#N)C1=CC=CC=C1 | C21H24N2
reactant | HCl | Cl | ClH
reactant | ether | 1.0M, 30 mL, 2.0 equiv | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Cl2 | 50 mL | ClCl | Cl2
solvent | THF | 54 mmol, 1.0M, 54 mL, 3.5 equiv | C1CCOC1 | C4H8O
product | 1-(4-Aminobutyl)-4,4-diphenylpiperidine | NCCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28N2
